US04022833
Condensation of 1-undecene oxide and 1,5-pentanediamine affords N,N'-(1,5-pentylene)-bis[2-hydroxyundecylamine] (I: R= CH3 (CH2)8, R' = H, X= (CH2)5, Z= H).

reactant | 1-undecene oxide | C1C(CCCCCCCCC)O1 | C11H22O
reactant | 1,5-pentanediamine | C(CCCCN)N | C5H14N2
product | N,N'-(1,5-pentylene)-bis[2-hydroxyundecylamine] | C(CCCCNCC(CCCCCCCCC)O)NCC(CCCCCCCCC)O | C27H58N2O2
